2163-12-27 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Remained agitated and delirious, requiring multiple doses of ativan,
   haldol, and metoprolol. Remained in restraints on safety watch.
   Allergies:
   Penicillins
   Hives; swelling
   Codeine
   Nausea/Vomiting
   Aspirin
   stomach upset;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-12-26**] 10:02 PM
   Metoprolol - [**2163-12-27**] 02:20 AM
   Dextrose 50% - [**2163-12-27**] 04:31 AM
   Lorazepam (Ativan) - [**2163-12-27**] 06:34 AM
   Haloperidol (Haldol) - [**2163-12-27**] 06:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-27**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 104 (86 - 140) bpm
   BP: 129/102(116) {120/55(85) - 198/114(130)} mmHg
   RR: 22 (16 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    319 mL
                                                                  1,122 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    199 mL
                                                                  1,122 mL
   Blood products:
   Total out:
                                                                    565 mL
                                                                    310 mL
   Urine:
                                                                    565 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -246 mL
                                                                    812 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General: sedated, withdraws to painful stimuli but non-conversant
   HEENT: NC/AT. Sclera anicteric, MM dry
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: slightly tachycardic, normal S1 + S2, no m/r/g
   Abdomen: obese, soft, non-tender, non-distended, hypoactive BS
   Ext: trace pitting edema b/l, WWP
   Labs / Radiology
   179 K/uL
   12.0 g/dL
   56 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.0 mEq/L
   16 mg/dL
   105 mEq/L
   138 mEq/L
   34.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2163-12-26**]  10:21 PM
                             [**2163-12-27**]  03:26 AM
   WBC
   9.9
   Hct
   34.9
   Plt
   179
   Cr
   1.0
   1.0
   Glucose
   56
   Other labs: PT / PTT / INR:12.8/27.2/1.1, CK / CKMB /
   Troponin-T:3736//, ALT / AST:32/70, Alk Phos / T Bili:62/0.7, Ca++:9.4
   mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   67 yo male with h/o HTN, DM2, and hyperlipidemia, who presented with CP
   and ruled out for MI, but was found in an acutely delirious state
   presumably due to unforeseen EtOH withdrawal.
   # Likely ETOH withdrawal
   -- continue Ativan 2mg IV q1PRN CIWA>10
   --appreciate psych recs, needing ativan far more frequently than TID,
   but added haldol as prn
   -- Head CT unremarkable
   -- r/o organic etiology with TSH, B12, folate, RPR
   -- urine and serum tox screens negative
   - U/A clean, will send blood cultures
   -- thiamine and folate via banana bag, add po when tolerating
   -- can use BB for hypertension and /or tachycardia
   .
   # Elevated CK: Pt had CK 1865 on presentation, arguing towards a fall
   or muscle breakdown prior to presentation. Concern for rhabdomyolysis
   that may further increase given his delirium and need for restraint.
   -- trend CKs, apear to be peaking (trend until then)
   -- UA with Tr blood, but 1 RBC, so not clearly myoglobinuria
   -- aggressive IVF with NS
   -- monitor RFTs
   .
   # CAD - never formally documented, but has several risk factors and a
   CAD equivalent in DM.
   -- when able to tolerate po's, will continue medical management with
   ASA, ACE-I
   -- will give BB IV prn
   -- continue SL Nitro 0.3mg PRN pain
   -- hold on statins given evidence of rising CK
   .
   # Hand lacs: Pt incurred 2 lacerations on his dorsal R hand during
   delirium. Appreciate plastics c/s.
   -- Hand x-ray negative for FB
   -- UTD on tetanus (documented in OMR from [**8-28**])
   -- bacitracin daily
   .
   # HTN - on multiple medications at home, now unable to take po
   -- will give BB IV, hold ACE-I and CCB for now, can add back prn
   .
   # DM2: stable. Pt is seen at [**Last Name (un) 72**].
   -- Continue Lantus 32u qhs, 1/2 dose if NPO
   -- Humalog SS
   -- Finger sticks qachs
   .
   # Hx prostate ca with urinary hesitancy: Stable.
   -- Continue terazosin, Enablex (darifenacin), tamsulosin when
   tolerating po
   .
   # Hyperlipidemia: On ezetimibe/simvastatin at home.
   -- hold simvastatin given rising CKs, ok to continue ezetimibe if tol
   po
   .
   # FEN:
   -- regular diet when tolerating po's, replete electrolytes
   .
   # Prophylaxis:
   -- Subcutaneous heparin, home pantoprazole
   .
   # Access:
   -- lost PIV this AM, will attempt to have another PIV placed. If
   unable, consider PICC or TLC
   .
   # Code:
   -- presumed full
   .
   # Communication:
   -- Patient and family
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2163-12-27 09:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued periods of delrium, agitated, HTN, tachycardia requiring
   several doses of benzo's, Haldol, and metoprolol.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Hives; swelling
   Codeine
   Nausea/Vomiting
   Aspirin
   stomach upset;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-12-26**] 10:02 PM
   Metoprolol - [**2163-12-27**] 02:20 AM
   Dextrose 50% - [**2163-12-27**] 04:31 AM
   Lorazepam (Ativan) - [**2163-12-27**] 06:34 AM
   Haloperidol (Haldol) - [**2163-12-27**] 06:34 AM
   Other medications:
   Zetia, lopressor, Verapamil, Tamsulosin, Terazosin, pantoprazole,
   enalapril, RISS, ASA, Bacitracin.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-27**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98
   HR: 98 (86 - 140) bpm
   BP: 148/66(88) {120/55(85) - 198/114(130)} mmHg
   RR: 31 (16 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    319 mL
                                                                  1,122 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    199 mL
                                                                  1,122 mL
   Blood products:
   Total out:
                                                                    565 mL
                                                                    355 mL
   Urine:
                                                                    565 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -246 mL
                                                                    767 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: anicteric sclera
   Head, Ears, Nose, Throat: MM [**Last Name (un) 3812**]
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Sedated, Tone: Not
   assessed
   Labs / Radiology
   12.0 g/dL
   179 K/uL
   56 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.0 mEq/L
   16 mg/dL
   105 mEq/L
   138 mEq/L
   34.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2163-12-26**]  10:21 PM
                             [**2163-12-27**]  03:26 AM
   WBC
   9.9
   Hct
   34.9
   Plt
   179
   Cr
   1.0
   1.0
   Glucose
   56
   Other labs: PT / PTT / INR:12.8/27.2/1.1, CK / CKMB /
   Troponin-T:3736//, ALT / AST:32/70, Alk Phos / T Bili:62/0.7, Ca++:9.4
   mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: TSH 2.6
   Vit B12, folate Pending
   Imaging: Head CT:  No acute process
   Microbiology: RPR neg.
   Assessment and Plan
   67 yo M with h/o DM, HTN, Hyperlipidemia admitted 2 days ago with
   C/P-->r/o'd.  Now transferred to the ICU after acute delirium resulting
   in destructive behavior and incidental self-injury.
   ETOH withdrawal/Delirium:  Given history, seems most consistent with
   etoh withdrawal.  Head CT neg TSH, RPR nml. Got 20mg of Ativan over
   last 24 hours.
     -Start Ativan 4mg Q4hr and continue PRN benzos with adjunctive Haldol
   PRN
     -MVI, thiamine, folate
     -Follow up Vit B12, folate
     -remains tachycardic w/ periods of hypertension.
    Lacerations:  No significant deep injury per plastics.
     -Continue DSD's
     -Tetanus is UTD.
    Chest Pain:  Negative troponins/ECG reassuring.
     -Can get stress test in the future
     -Cont ASA, statin, BB if able to take pills.
    Elevated CK:  Likely related to injury.
     -Trend to peak
     -Hydration with NS.
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2163-12-27**] 09:23 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2163-12-28 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   24Hour Events:
   -- BCx sent to make sure delirium is not anything infectious
   -- CK's started to level off in pm; turned IVF down
   -- psych thought pt had benzo intoxication; wanted to cut back on
   ativan from 4 mg Q4 hours to 2 mg Q4 hours wth no benzo's for
   breakthrough agitation; didn't get haldol overnight
   -- also noticed piece of glass in the skin under the right eye; asked
   plastics to come by and see before trying to pull out myself; no
   evidence fo cellulitis but close to the eye; plastics said it was ok to
   put bacitracin on the spot, but haven't come by yet to pull it out.
   -- daughter, [**Name (NI) 3843**], very concerned that her father may have been hit
   in the groin during the episode on the 4th; in touch with patient
   relations regarding getting incident report
   This AM, fell from chair to ground, unwitnessed. States he hit head and
   knees, c/o HA and b/l knee pain.
   Allergies:
   Penicillins
   Hives; swelling
   Codeine
   Nausea/Vomiting
   Aspirin
   stomach upset;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2163-12-27**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2163-12-27**] 08:39 PM
   Metoprolol - [**2163-12-28**] 04:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-28**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 98 (79 - 109) bpm
   BP: 151/90(114) {121/66(86) - 194/100(114)} mmHg
   RR: 17 (17 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,907 mL
                                                                  1,265 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                  4,247 mL
                                                                  1,265 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                    195 mL
   Urine:
                                                                    995 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,912 mL
                                                                  1,070 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   Much calmer. A+o x 2
   Wound under right eye, could not appreciate FB
   RRR
   Upper respiraotry wheezing but lungs CTAB
   Obese s/nt/nd
   trace LE edema but L hand edema > right (old left antecub IV
   infiltrated)
   Labs / Radiology
   163 K/uL
   11.5 g/dL
   166 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.9 mEq/L
   17 mg/dL
   109 mEq/L
   137 mEq/L
   33.2 %
   8.4 K/uL
        [image002.jpg]
                             [**2163-12-26**]  10:21 PM
                             [**2163-12-27**]  03:26 AM
                             [**2163-12-27**]  03:50 PM
                             [**2163-12-28**]  02:37 AM
   WBC
   9.9
   8.4
   Hct
   34.9
   33.2
   Plt
   179
   163
   Cr
   1.0
   1.0
   1.0
   1.0
   Glucose
   56
   77
   166
   Other labs: PT / PTT / INR:12.8/27.2/1.1, CK / CKMB /
   Troponin-T:3004//, ALT / AST:32/70, Alk Phos / T Bili:62/0.7, Ca++:8.7
   mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Imaging: none new
   Microbiology: [**12-27**] BCx: PND
   RPR: negative
   Assessment and Plan
   67 yo male with h/o HTN, DM2, and hyperlipidemia, who presented with CP
   and ruled out for MI, but was found in an acutely delirious state
   presumably due to unforeseen EtOH withdrawal.
    # Likely ETOH withdrawal - appears much improved today
   -- continue reduced dose standing ativan with no prns per psych
   -- appreciate psych recs, f/u any additiona
   -- continue haldol prn
   -- f/u blood cultures., but infxn unlikely
   -- TSH, B12, folate, RPR all WNL
   -- continue thiamine and folate
   -- can use BB for hypertension and /or tachycardia
   # s/p fall
   - no obvious trauma, full ROM in knees, but given that pt c/o HA and
   has h/o EtOH, would perform CT to r/o bleed
   - falls precautions
   # Elevated CK:trending downwards, peak 3700
   -- would d/c IVF as pt edematous, slightly wheezy
   -- would give lasix 20mg IV for edema
   # CAD - never formally documented, but has several risk factors and a
   CAD equivalent in DM.
   -- if tolerating po's, will continue resume ASA, ACE-I, and change
   metoprolol to po
   -- continue SL Nitro 0.3mg PRN pain
   -- hold on statinfor now given recent CK bump
   #Delirium -related injuries: Pt incurred 2 lacerations on his dorsal R
   hand during delirium.
   -- wound care per plastics
   -- plastics to re-eval for wound under R eye with ? FB
   # HTN - on multiple medications at home, now unable to take po
   -- as above. will add back as tolerated
   # DM2: stable. Pt is seen at [**Last Name (un) 72**].
   -- Continue Lantus 32u qhs, 1/2 dose if NPO
   -- Humalog SS
   -- Finger sticks qachs
   # Hx prostate ca with urinary hesitancy: Stable.
   -- Continue terazosin, Enablex (darifenacin), tamsulosin when
   tolerating po
   .# Hyperlipidemia: On ezetimibe/simvastatin at home.
   - hold simvastatin given elevated CKs
   # FEN:
   - regular DM HH diet when tolerating po's, replete electrolytes
   # Prophylaxis:
   -- Subcutaneous heparin, home pantoprazole
   # Access:
   -- PIV
   .
   # Communication:
   -- Patient and family
   # Disposition:
   -- call out to floor
   ICU Care
   Nutrition:
   Comments: SM HH diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-12-27**] 09:23 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2163-12-28 10:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Small amount of hematuria noted on foley bag.  Pt had been reportedly
   pulling at foley during delirium.
   No episodes of agitation overnight.
   Put in chair this AM and slid out of chair onto his knees.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Hives; swelling
   Codeine
   Nausea/Vomiting
   Aspirin
   stomach upset;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2163-12-27**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2163-12-28**] 08:07 AM
   Metoprolol - [**2163-12-28**] 10:32 AM
   Other medications:
   zetia, Verapamil, Tamsulosin, Terazosin, enalapril, RISS, ASA,
   Thiamine, MVI, folate, protonix, Ativan 2mg Q4hr
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-28**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 96 (79 - 109) bpm
   BP: 151/95(107) {121/66(86) - 194/100(114)} mmHg
   RR: 19 (17 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,907 mL
                                                                  1,720 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                  4,247 mL
                                                                  1,720 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                    505 mL
   Urine:
                                                                    995 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,912 mL
                                                                  1,215 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Small abrasion under R eye
   with small shard of glass-->removed
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.5 g/dL
   163 K/uL
   166 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.9 mEq/L
   17 mg/dL
   109 mEq/L
   137 mEq/L
   33.2 %
   8.4 K/uL
        [image002.jpg]
                             [**2163-12-26**]  10:21 PM
                             [**2163-12-27**]  03:26 AM
                             [**2163-12-27**]  03:50 PM
                             [**2163-12-28**]  02:37 AM
   WBC
   9.9
   8.4
   Hct
   34.9
   33.2
   Plt
   179
   163
   Cr
   1.0
   1.0
   1.0
   1.0
   Glucose
   56
   77
   166
   Other labs: PT / PTT / INR:12.8/27.2/1.1, CK / CKMB /
   Troponin-T:3004//, ALT / AST:32/70, Alk Phos / T Bili:62/0.7, Ca++:8.7
   mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: Vit B12 nml, Folate Nml
   Microbiology: BCx: NGTD
   RPR:  neg.
   Assessment and Plan
   67 yo M with h/o DM, HTN, Hyperlipidemia admitted 2 days ago with
   C/P-->r/o'd.  Now transferred to the ICU after acute delirium resulting
   in destructive behavior and incidental self-injury.  Doing much better
   today.
    ETOH withdrawal/Delirium:  Given history, seems most consistent with
   etoh withdrawal.  Head CT neg TSH, RPR, Vit B12, folate nml. Doing very
   well currently, having some doses held.
     -Ativan 1mg Q4hr with adjunctive Haldol PRN
     -MVI, thiamine, folate
   Fall this AM:  Was found on his knees immediately after fall.  No clear
   evidence of trauma from fall.
     -Monitor for now.  Will keep in bed for now.
     - Family notified
    Lacerations:  Superficial injuries.  No significant deep injury per
   plastics.
     -Continue DSD's
     -Tetanus is UTD.
     -Bacitracin to wounds
    Chest Pain:  Negative troponins/ECG reassuring.
     -Can get stress test in the future
     -Cont ASA, statin, BB if able to take pills.
    Elevated CK:  Likely related to injury.  Peaked yesterday at 3700.
   FEN:  Start po's today
    Rest of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2163-12-27**] 09:23 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Patient is critically ill